simulator lang=spectre
global 0

ahdl_include "../submission/sarfend_logic_4b.va"

Vclks (clks 0) vsource type=pwl wave=[0 0 1n 0 1.05n 1 1.45n 1 1.50n 0 8n 0 8.05n 1 8.45n 1 8.50n 0 14n 0 14.05n 1 14.45n 1 14.50n 0]
Vdcomp (dcomp 0) vsource type=pwl wave=[0 0 2n 0 2.05n 1 2.45n 1 2.50n 0 4n 0 4.05n 0 4.45n 0 4.50n 0 6n 0 6.05n 1 6.45n 1 6.50n 0 7n 0 7.05n 0 7.45n 0 7.50n 0 9.5n 0 9.55n 0 9.95n 0 10n 0 10.5n 0 10.55n 1 10.95n 1 11n 0 11.5n 0 11.55n 0 11.95n 0 12n 0 12.5n 0 12.55n 1 12.95n 1 13n 0 13.2n 0 13.25n 1 13.55n 1 13.60n 0]
Vdcompb (dcompb 0) vsource type=pwl wave=[0 0 2n 0 2.05n 0 2.45n 0 2.50n 0 4n 0 4.05n 1 4.45n 1 4.50n 0 6n 0 6.05n 0 6.45n 0 6.50n 0 7n 0 7.05n 1 7.45n 1 7.50n 0 9.5n 0 9.55n 1 9.95n 1 10n 0 10.5n 0 10.55n 0 10.95n 0 11n 0 11.5n 0 11.55n 1 11.95n 1 12n 0 12.5n 0 12.55n 0 12.95n 0 13n 0 13.2n 0 13.25n 0 13.55n 0 13.60n 0]
Vtest (test 0) vsource type=pwl wave=[0 0 8.7n 0 8.8n 1]
Vdtest0 (dtest0 0) vsource dc=0
Vdtest1 (dtest1 0) vsource dc=1
Vdtest2 (dtest2 0) vsource dc=0
Vdtest3 (dtest3 0) vsource dc=1
XDUT (clks dcomp dcompb test dtest0 dtest1 dtest2 dtest3 clkc dp1 dp2 dp3 dp4 dm1 dm2 dm3 dm4 dout0 dout1 dout2 dout3) sarfend_logic_4b

tran tran stop=15n maxstep=10p
save clkc clks dcomp dcompb dm1 dm2 dm3 dm4 dout0 dout1 dout2 dout3 dp1 dp2 dp3 dp4 dtest0 dtest1 dtest2 dtest3 test
