simulator lang=spectre
global 0

ahdl_include "./dut/tia_limiting_receiver.va"

Vvin_proxy (vin_proxy 0) vsource type=pwl wave=[0 0.45 13n 0.45 13.2n 0.52 32n 0.52 32.2n 0.78 54n 0.78 54.2n 0.24 92n 0.24]
Vclk (clk 0) vsource type=pwl wave=[0 0 9n 0 10n 0.9 12n 0.9 12.2n 0 20n 0.9 22n 0.9 22.2n 0 30n 0.9 32n 0.9 32.2n 0 40n 0.9 42n 0.9 42.2n 0 50n 0.9 52n 0.9 52.2n 0 60n 0.9 62n 0.9 62.2n 0 70n 0.9 72n 0.9 72.2n 0 80n 0.9 82n 0.9 82.2n 0 92n 0]
Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.2n 0 92n 0]
Venable (enable 0) vsource type=pwl wave=[0 0 5n 0 5.2n 0.9 82n 0.9 82.2n 0 92n 0]
XDUT (vin_proxy clk rst enable vout decision limit_flag valid amp_metric) tia_limiting_receiver


tran tran stop=92n maxstep=200p
save vin_proxy clk rst enable vout decision limit_flag valid amp_metric
