simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

Vrst (rst 0) vsource type=pwl wave=[0 0.9 25n 0.9 26n 0 220n 0 221n 0.9 250n 0.9 251n 0 320n 0]
Vin (vin 0) vsource dc=0.002

XDUT (vin rst vout) resettable_integrator

tran tran stop=320n maxstep=500p
save vin rst vout
