simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

Vin (vin 0) vsource type=pwl wave=[0 0 20n 0 21n 0.8 95n 0.8 96n 0.1 170n 0.1]

XDUT (vin vout) slew_rate_limiter

tran tran stop=170n maxstep=500p
save vin vout
