// cmp_delay: log-linear regeneration delay  td = td_0 + tau*ln(VDD/|Vdiff|)
// tau=4.34ps, td_0=20.5ps  →  10mV:40ps, 1mV:50ps, 0.1mV:60ps, 0.01mV:70ps
// Four 4ns phases (4 clk cycles each) spanning 3 decades of |diff|, 1GHz 50% duty
// VCM=0.45V (VDD/2), all positive polarity (vinp > vinn)
simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"
ahdl_include "edge_interval_timer.va"

// Power supplies
Vvdd (vdd 0) vsource dc=0.9 type=dc
Vgnd (gnd 0) vsource dc=0.0 type=dc

// Clock: 1GHz, 50% duty cycle, delay=100ps
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=1n delay=100p \
        rise=50p fall=50p width=450p

// Differential input: VCM=0.45V, 4 phases × 4ns (4 clk cycles each)
// Phase 1  (0-4ns):  diff=+10mV   (VINP=455mV,     VINN=445mV)
// Phase 2  (4-8ns):  diff=+1mV    (VINP=450.5mV,   VINN=449.5mV)
// Phase 3  (8-12ns): diff=+0.1mV  (VINP=450.05mV,  VINN=449.95mV)
// Phase 4 (12-16ns): diff=+0.01mV (VINP=450.005mV, VINN=449.995mV)
Vvinp (vinp 0) vsource type=pwl wave=[0 0.455 3.9e-9 0.455 4e-9 0.4505 7.9e-9 0.4505 8e-9 0.45005 11.9e-9 0.45005 12e-9 0.450005 16e-9 0.450005]
Vvinn (vinn 0) vsource type=pwl wave=[0 0.445 3.9e-9 0.445 4e-9 0.4495 7.9e-9 0.4495 8e-9 0.44995 11.9e-9 0.44995 12e-9 0.449995 16e-9 0.449995]

// DUT (port order: CLK VINN VINP DCMPN DCMPP LP LM VSS VDD)
IDUT (clk vinn vinp out_n out_p lp_int lm_int gnd vdd) cmp_delay

// Edge-interval timer: measures CLK→out_p propagation delay
IEIT (clk out_p delay_ps) edge_interval_timer VTH=0.45

tran tran stop=16n maxstep=10p
save clk vinp vinn out_p out_n delay_ps
