// threshold comparator bidirectional polarity testbench
// VINP starts below VINN, ramps above VINN, then ramps below VINN again.
// Public checks require low-for-negative-diff, high-for-positive-diff,
// one rising trip near zero differential, and one falling trip near zero differential.
simulator lang=spectre
global 0

ahdl_include "dut_fixed.va"

Vvdd  (vdd  0) vsource dc=0.9
Vvss  (vss  0) vsource dc=0.0
Vvinp (vinp 0) vsource type=pwl wave=[0 0.42 5n 0.42 12n 0.48 18n 0.48 25n 0.42 30n 0.42]
Vvinn (vinn 0) vsource dc=0.45

IDUT (vdd vss vinp vinn out_p) comparator

tran tran stop=30n maxstep=0.1n
save vinp vinn out_p
